US06969714B2
2-Anilino-4-(1-methylimidazol-5-yl)pyrimidine
Sodium methoxide (2.63 g, 48.7 mmol) was added to a solution of 5-(3-dimethylaminoprop-2-en-1-oyl)-1-methylimidazole Method 4; 2.91 g, 16.2 mmol) and phenylguanidine hydrogen carbonate (3.52 g, 17.9 mmol) in 2-propanol (14 ml) and the reaction mixture heated at reflux for 3 hours. The reaction mixture was allowed to cool and partitioned between EtOAc and saturated aqueous sodium, hydrogen carbonate solution. The organic phase was separated, dried and the solvent removed by evaporation. The residue was purified by column chromatography eluting with DCM and 7M methanolic ammonia solution (97:3) to give the title compound 2.57 g, (64%) as a solid. M/z: 252.

reactant | Sodium methoxide | 48.7 mmol, 2.63 g | C[O-].[Na+]
reactant | 5-(3-dimethylaminoprop-2-en-1-oyl)-1-methylimidazole | CN(C=CC(=O)C1=CN=CN1C)C | C9H13N3O
reactant | phenylguanidine hydrogen carbonate | 17.9 mmol, 3.52 g | C(O)(O)=O.C1(=CC=CC=C1)NC(=N)N
solvent | 2-propanol | 14 ml | CC(C)O | C3H8O
product | 2-Anilino-4-(1-methylimidazol-5-yl)pyrimidine | 2.57 g, 64% | N(C1=CC=CC=C1)C1=NC=CC(=N1)C1=CN=CN1C | C14H13N5
